US04720580
N-[2-[(1-methylethyl)amino]ethyl]-3,4-dimethoxy-N-(1-methylethyl)-benzenesulfonamide
Reaction of 3,4-dimethoxybenzene sulfonyl chloride with N,N'-diisopropylethylene diamine following the procedure of Example 1 gave a crude crystalline product which on recrystallization from diethyl ether provided the pure title compound, m.r. 53°-55° C.

reactant | 3,4-dimethoxybenzene sulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | N,N'-diisopropylethylene diamine | C(C)(C)NCCNC(C)C | C8H20N2
product | N-[2-[(1-methylethyl)amino]ethyl]-3,4-dimethoxy-N-(1-methylethyl)-benzenesulfonamide | CC(C)NCCN(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C)C | C16H28N2O4S
